US05717049
A quantity of 121 g of N-benzylmethylamine was reacted with 100 g of acryloyl chloride in the presence of 111 g of triethylamine in ether at 0° C. to 25° C. for 16 hours. The product was filtered, the solvent was removed, and N-benzyl-N-methylacrylamide was isolated in 69% yield by distillation under vacuum Cop 83°-85° C./0.04 mm--Hg).

reactant | N-benzylmethylamine | 121 g | C(C1=CC=CC=C1)CN | C8H11N
reactant | acryloyl chloride | 100 g | C(C=C)(=O)Cl | C3H3ClO
reactant | triethylamine | 111 g | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | N-benzyl-N-methylacrylamide | 69% yield | C(C1=CC=CC=C1)N(C(C=C)=O)C | C11H13NO
